US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2-Methoxyethyl Ester
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid (10.0 mg, 21 μmol) was combined with 2-methoxyethanol (0.1 mL, 1.3 mmol). A solution of 4 M HCl in dioxane (53 μL, 0.2 mmol) was added, and the resulting mixture was stirred for 1 hour at room temperature. LC/MS showed the mass of the desired product. The mixture was concentrated by rotary evaporation and purified (reverse phase column) to yield the title compound (2.7 mg, purity 95%) as a white solid TFA salt. MS m/z [M+H]+ calc'd for C25H26ClFN4O6, 533.15. found 533.1.

reactant | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid | 21 μmol, 10.0 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
reactant | 2-methoxyethanol | 1.3 mmol, 0.1 mL | COCCO | C3H8O2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.2 mmol, 53 μL | O1CCOCC1 | C4H8O2
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2-Methoxyethyl Ester | COCCOC([C@@H](CN(NC(=O)C=1NN=C(C1)C(C)=O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C25H26ClFN4O6
